US07091245B2
[4-(3,3-Bis-biphenyl-4-yl-allylsulfanyl)-2-methyl-phenoxy]-acetic acid
In an evaporated schlenk flask kept under nitrogen atmosphere were added {4-[3,3-bis-(4-bromo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid (297 mg, 0.54 mmol), phenylboronic acid (152 mg, 1.2 mmol), KF (104 mg, 1.79 mmol), Pd2(dba)3 (30 mg, 33 mmol) and Pd(P(t-Bu)3)2 (33 mg, 65 mmol). THF (6 ml) was added to the solid mixture keeping the mixture under nitrogen. The reaction mixture was stirred at room temperature for 1 h, followed by 4 h at 50° C. A saturated solution of ammonium chloride (5 ml) was added, and the mixture was extracted with dichloromethane (2×20 ml). The organic phases were dried and evaporated. The residue was purified by column chromatography (eluent: dichloromethane:THF (8:3)) to give the title compound in 155 mg (53%) yield.

reactant | {4-[3,3-bis-(4-bromo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid | 0.54 mmol, 297 mg | BrC1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)Br | C24H20Br2O3S
reactant | phenylboronic acid | 1.2 mmol, 152 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | KF | 1.79 mmol, 104 mg | [F-].[K+]
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
catalyst | Pd2(dba)3 | 33 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd(P(t-Bu)3)2 | 65 mmol, 33 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | [4-(3,3-Bis-biphenyl-4-yl-allylsulfanyl)-2-methyl-phenoxy]-acetic acid | C1(=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H30O3S
